US04649146
To a suspension of 2,2'-dimethylamino-4,4'-dimethyl-5,5'-bithiazole (1.9 g) in ethanol (100 ml) was added conc. hydrochloric acid (2 ml) and the resulting solution was evaporated in vacuo. The residue was dissolved in ethanol (100 ml) and the solution was concentrated in vacuo. The resulting precipitate was collected by filtration and washed with diethyl ether to give 2,2'-dimethylamino-4,4'-dimethyl-5,5'-bithiazole dihydrochloride (1.86 g). mp 277° C. (dec.)

reactant | 2,2'-dimethylamino-4,4'-dimethyl-5,5'-bithiazole | 1.9 g | CNC=1SC(=C(N1)C)C1=C(N=C(S1)NC)C | C10H14N4S2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2'-dimethylamino-4,4'-dimethyl-5,5'-bithiazole dihydrochloride | 1.86 g | Cl.Cl.CNC=1SC(=C(N1)C)C1=C(N=C(S1)NC)C | InChI=1S/C10H14N4S2.2ClH/c1-5-7(15-9(11-3)13-5)8-6(2)14-10(12-4)16-8;;/h1-4H3,(H,11,13)(H,12,14);2*1H
